US04036971
Dry hydrogen chloride was passed into a solution of N,N'-bis-[2-((5-methyl-4-imidazolyl)methylthio)ethyl]thiourea (7.7 g) in methanol at 80° for 5 hours. Concentration and re-evaporation with isopropyl alcohol afforded S-methyl-N,N'-bis-[2-((5-methyl-4-imidazolyl)methylthio)ethyl ]isothiourea trihydrochloride (9.0 g), m.p. 212°-215° (isopropyl alcohol).

reactant | hydrogen chloride | Cl | ClH
reactant | N,N'-bis-[2-((5-methyl-4-imidazolyl)methylthio)ethyl]thiourea | 7.7 g | CC1=C(N=CN1)CSCCNC(=S)NCCSCC=1N=CNC1C | C15H24N6S3
reactant | methanol | CO | CH4O
product | S-methyl-N,N'-bis-[2-((5-methyl-4-imidazolyl)methylthio)ethyl ]isothiourea trihydrochloride | 9.0 g | Cl.Cl.Cl.CSC(NCCSCC=1N=CNC1C)=NCCSCC=1N=CNC1C | InChI=1S/C16H26N6S3.3ClH/c1-12-14(21-10-19-12)8-24-6-4-17-16(23-3)18-5-7-25-9-15-13(2)20-11-22-15;;;/h10-11H,4-9H2,1-3H3,(H,17,18)(H,19,21)(H,20,22);3*1H
